US07166648B2
5.5 g of 5-acetyl-6-oxo-heptanoic acid ethyl ester, 5.7 g of potassium carbonate, 15 g of iodo-methane, and 15 ml of acetone were refluxed for 18 hours. After cooling, petroleum ether was added, and the solid was filtered off and washed with acetone and petroleum ether. Fractional distillation and re-distillation yielded 5.11 g of 5-acetyl-5-methyl-6-oxo-heptanoic acid ethyl ester (boiling point: 151° C./20 mbar; purity: 82%; colorless).

reactant | 5-acetyl-6-oxo-heptanoic acid ethyl ester | 5.5 g | C(C)OC(CCCC(C(C)=O)C(C)=O)=O | C11H18O4
reactant | potassium carbonate | 5.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodo-methane | 15 g | IC | CH3I
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 5-acetyl-5-methyl-6-oxo-heptanoic acid ethyl ester | 5.11 g | C(C)OC(CCCC(C(C)=O)(C)C(C)=O)=O | C12H20O4
